US08912210B2
Step C: tert-Butyl 5,6-bis(hydroxymethyl)pyridine-3-carboxylate
To a solution of tert-butyl 5,6-diethenylpyridine-3-carboxylate (19.0 g, 82 mmol) in dichloromethane (821 mL) at −78° C. was added ozone gas. The ozone bubbled though the solution until saturated (1 h). Nitrogen gas was then bubbled through the solution. The mixture was diluted with methanol (821 mL) and sodium borohydride (7.77 g, 205 mmol) was added. After 15 min, the mixture was quenched with saturated aqeuous sodium bicarbonate and washed with dichloromethane (3×). The combined organics were washed with brine, dried with magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→15% methanol/dichloromethane) gave the title compound. MS: m/z=240.3 (M+1).

reactant | tert-butyl 5,6-diethenylpyridine-3-carboxylate | 82 mmol, 19.0 g | C(=C)C=1C=C(C=NC1C=C)C(=O)OC(C)(C)C | C14H17NO2
reactant | ozone | O=[O+][O-] | O3
reactant | sodium borohydride | 205 mmol, 7.77 g | [BH4-].[Na+]
reactant | methanol | 821 mL | CO | CH4O
solvent | dichloromethane | 821 mL | ClCCl | CH2Cl2
product | tert-Butyl 5,6-bis(hydroxymethyl)pyridine-3-carboxylate | OCC=1C=C(C=NC1CO)C(=O)OC(C)(C)C | C12H17NO4
